US05585391
Preparation of N,N-bis-(2-hydroxyethyl)aminoacetic acid
Methyl bromoacetate (152.98 grams, 1 mole) is dissolved in 1-propanol (500 ml.) and bis-(2-hydroxyethyl)amine (105.14 grams, 2 moles) and triethylamine (111.1 grams, 1.1 moles) are added and the mixture is stirred and heated at reflux for 3 hours. The mixture is treated with 10 normal sodium hydroxide (110 ml., 1.1 moles) and the solvents are removed by distillation in vacuo. The residue is filtered and the solid is washed with 1-propanol. The combined filtrates are dissolved in ethanol (400 ml) and 10 normal sodium hydroxide (130 ml, 1.3 moles) is added. The mixture is stirred and heated at reflux for 3 hours. The mixture is acidified with 12 normal hydrochloric acid (108 ml, 1.3 moles). Upon cooling, N,N-bis-(2-hydroxyethyl)aminoacetic acid separates and is collected by filtration, and is washed with a 50% aqueous ethanol and dried.

reactant | Methyl bromoacetate | 1 mole, 152.98 grams | BrCC(=O)OC | C3H5BrO2
reactant | bis-(2-hydroxyethyl)amine | 2 moles, 105.14 grams | OCCNCCO | C4H11NO2
reactant | triethylamine | 1.1 moles, 111.1 grams | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1.1 moles, 110 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1.3 moles, 130 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1.3 moles, 108 ml | Cl | ClH
solvent | 1-propanol | 500 ml | C(CC)O | C3H8O
product | N,N-bis-(2-hydroxyethyl)aminoacetic acid | OCCN(CCO)CC(=O)O | C6H13NO4
